US08349851B2
A mixture of ethyl 2-(2-carbamoyl-6-fluorophenylamino)-2-oxoacetate (600 mg, 2.4 mmol) and potassium t-butoxide (300 mg, 6.7 mmol) in EtOH (10 mL) was stirred at rt for 5 h. Saturated aq NaCl (50 mL) and HOAc (0.5 mL) were added and the mixture was extracted with EtOAc (3×80 mL). The combined organic layers were washed with brine (80 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure to afford ethyl 8-fluoro-4-hydroxyquinazoline-2-carboxylate (530 mg, 93%). 1H NMR (300 MHz, DMSO-d6) δ 1.39 (t, J=7.2 Hz, 3 H), 4.40 (q, J=7.2 Hz, 2 H), 7.57-7.70 (m, 1 H), 7.78 (t, J=9.2 Hz, 1 H), 7.99 (d, J=8.1 Hz, 1 H), 12.86 (s, 1 H); LC-MS (ESI) m/z 237 (M+H)+.

reactant | ethyl 2-(2-carbamoyl-6-fluorophenylamino)-2-oxoacetate | 2.4 mmol, 600 mg | C(N)(=O)C1=C(C(=CC=C1)F)NC(C(=O)OCC)=O | C11H11FN2O4
reactant | potassium t-butoxide | 6.7 mmol, 300 mg | CC(C)([O-])C.[K+]
reactant | NaCl | 50 mL | [Na+].[Cl-]
reactant | HOAc | 0.5 mL | CC(=O)O | C2H4O2
solvent | EtOH | 10 mL | CCO | C2H6O
product | ethyl 8-fluoro-4-hydroxyquinazoline-2-carboxylate | 530 mg, 93% | FC=1C=CC=C2C(=NC(=NC12)C(=O)OCC)O | C11H9FN2O3
